US04064340
Preparation of Nogalamycinic Acid
Forty grams (0.05 mole) of nogalamycin was dissolved in 356 ml of 1 N KOH (0.36 mole), and 310 ml of water was added. The solution was stirred overnight at room temperature. The reaction mixture was acidified to pH 3.0 by adding 30% H2SO4 dropwise with stirring. The precipitate was collected by centrifugation and the precipitate was washed three times with water. The dried product weighted 28.5 g. Ten grams was dissolved in 125 ml of methanol and put on 500 g of silica packed in CHCl3 --MeOH (95:5). Developed with CHCl3 --MeOH (95:5) increasing gradually to CHCl3 --MeOH (4:1). Elution was continued with CHCl3 --MeOH (1:1) until nogalamycinic acid had been eluted as determined by thin layer chromatography (tlc) using CHCl3 --MeOH--H2O (78:20:2). Evaporation in vacuo of the fractions containing chromatographically pure material gave a red solid, wt. 2.3 g; mp 219°-229° C.; Rf (tlc, CHCl3 --MeOH--H2O; 78:20:2) 0.25; αD +456° (C 0.37, CH3OH); uv (EtOH) λmax nm 236 (ε 39,950), 269 (ε 21,350), 291 sh (ε 8,700), 482 (13,550); ir (Nujol) 3450, 1670, 1630, 1595, 1580, 1290, 1230, 1215, 1135, 1095, 1060, 1015, 980, 920, 855, 830, 780, 763 and 725 cm-1 ; mass spectrum m/e 729 (M- --CO2); 'H NMR (CDCl3 --CD3OD) δ 1.38 (m, 9 H, 3 CH3C), δ 1.80 (s, 3 H, CH3C), δ 3.15 (s, 6H, (CH3)2NH+), δ 3.38, 3.40, 3.68 (3 s, 9 H, 3 CH3O), δ 3.2-4.0 (m, CHO and CHN), δ 5.24 (d, 1 H, anomeric), δ 5.88 (d, 1 H, anomeric), δ 6.92 (s, 1 H, aromatic) and δ 7.47 (s, 1 H, aromatic); 13C NMR (CDCl3 --CD2OD) 16.4, 19.3, 24.6, 31.5 (4 CH3C), δ 42.5 [(CH3)2N], δ 49.9, 58.2, 60.3, 62.5, 67.8, 68.5, 70.6, 71.6, 74.0, 77.3, 79.6, 82.1 and 85.9 (CH3O, CHO and CHN), δ 97.3 and 100.2 (anomeric), δ 113.1, 114.1, 116.0, 120.7, 125.8, 131.0, 132.5, 137.2, 147.4, 147.8, 156.0 and 161.4 (aromatic), δ 178.9, 181.9, 181.6 and 191.4 (carbonyl).

reactant | nogalamycin | 0.05 mole, Forty grams | C[C@H]1[C@@H]([C@@]([C@H]([C@@H](O1)O[C@H]2C[C@]([C@@H](C3=C2C(=C4C(=C3)C(=O)C5=C(C(=CC6=C5O[C@H]7[C@H]([C@@H]([C@H]([C@@]6(O7)C)O)N(C)C)O)O)C4=O)O)C(=O)OC)(C)O)OC)(C)OC)OC | C39H49NO16
reactant | KOH | 0.36 mole, 1 N, 356 ml | [OH-].[K+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | EtOH | CCO | C2H6O
solvent | CH3OH | CO | CH4O
solvent | H2O | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 310 ml | O | H2O
product | Nogalamycinic Acid | C[C@H]1[C@@H]([C@@]([C@H]([C@@H](O1)O[C@H]2C[C@]([C@@H](C3=C2C(=C4C(=C3)C(=O)C5=C(C(=CC6=C5O[C@H]7[C@H]([C@@H]([C@H]([C@@]6(O7)C)O)N(C)C)O)O)C4=O)O)C(=O)O)(C)O)OC)(C)OC)OC | C38H47NO16
